US05519133
preparation of Methyl 3-{5-[(2,4-dichloro-m-tolyl)oxy]-2-nitrophenyl}tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate
A mixture of methyl 3-(5-fluoro-2-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1-(2H)-acetate (0.51 g, 1.4 mmol), 2,4-dichloro-3-methylphenol (0.33 g, 1.9 mmol) and potassium carbonate (0.28 g, 2.0 mmol) in N,N-dimethylformamide is stirred overnight at room temperature and poured into water. The aqueous mixture is extracted with ethyl acetate. The organic extracts are combined, washed sequentially with water, 1M sodium hydroxide solution, water and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to obtain a yellow solid. The solid is slurried with an ether/hexanes (1:1) solution, filtered and dried in vacuo to give the title product as a yellow solid, mp 199.9°-202° C.

reactant | methyl 3-(5-fluoro-2-nitrophenyl)tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1-(2H)-acetate | 1.4 mmol, 0.51 g | FC=1C=CC(=C(C1)N1C(N(C(N(C1=O)C)=O)CC(=O)OC)=O)[N+](=O)[O-] | C13H11FN4O7
reactant | 2,4-dichloro-3-methylphenol | 1.9 mmol, 0.33 g | ClC1=C(C=CC(=C1C)Cl)O | C7H6Cl2O
reactant | potassium carbonate | 2.0 mmol, 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | Methyl 3-{5-[(2,4-dichloro-m-tolyl)oxy]-2-nitrophenyl}tetrahydro-5-methyl-2,4,6-trioxo-s-triazine-1(2H)-acetate | ClC1=C(C=CC(=C1OC=1C=CC(=C(C1)N1C(N(C(N(C1=O)C)=O)CC(=O)OC)=O)[N+](=O)[O-])Cl)C | C20H16Cl2N4O8
